US07855290B2
To a solution of benzyl [4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]carbamate (1.25 g) in tetrahydrofuran (100 ml) were added triethylamine (1.48 ml) and phenyl chloroformate (1.11 ml), followed by stirring at room temperature for 1 hr. The reaction mixture was partitioned between ethyl acetate and a 1N aqueous solution of sodium hydroxide. The organic layer was washed with brine, dried over anhydrous sodium sulfate. The solvent was removed to provide a crude product of phenyl N-[4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridin-2-yl]-N-phenoxycarbonylcarbamate as a brown oil (ESI-MS (m/z): 616 [M+Na]+). This was dissolved in tetrahydrofuran (200 ml), 20% palladium hydroxide (497 mg) was added thereto, and the mixture was stirred under a hydrogen atmosphere at room temperature for 4 hr. The catalyst was removed by filtration and washed with tetrahydrofuran. The filtrate was concentrated to 20 ml to provide a solution of phenyl N-[4-(4-amino-3-fluorophenoxy)pyridin-2-yl]-N-phenoxycarbonylcarbamate (ESI-MS (m/z): 482 [M+Na]+, 941 [2M+Na]+) in tetrahydrofuran. This was dissolved in N,N-dimethylformamide (50 ml). 1-(4-Fluorophenylcarbamoyl)cyclopropanecarboxylic acid (1.58 g), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (3.13 g) and triethylamine (0.987 ml) were added thereto, followed by stirring at room temperature for 13.5 hr. The reaction mixture was partitioned between ethyl acetate and brine. The organic layer was washed with a 1N aqueous solution of sodium hydroxide and brine in this order, and dried over anhydrous sodium sulfate. This was concentrated, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=3:2, 1:1 then 1:2) to provide the titled compound as colorless foam (940 mg, 40.0%).

reactant | benzyl [4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]carbamate | 1.25 g | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F | C19H16FN3O3
reactant | triethylamine | 1.48 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 1.11 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | phenyl N-[4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridin-2-yl]-N-phenoxycarbonylcarbamate | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(OC2=CC(=NC=C2)N(C(OC2=CC=CC=C2)=O)C(=O)OC2=CC=CC=C2)C=C1)F | C33H24FN3O7
